US04616086
Ethyl 4-{2-[1-(4-chlorocinnamyl)-piperazin-4-yl]-ethyl}-benzoate
A mixture of 33.5 g. (0.1 mole) ethyl 4-[2-piperazin-1-yl)-ethyl]-benzoate dihydrochloride, 19.6 g. (105 mmole) 4-chlorocinnamyl chloride, 40.8 g. (0.4 mole) anhydrous triethylamine and 400 ml. anhydrous tetrahydrofuran is maintained at reflux temperature for 24 hours and subsequently evaporated in a vacuum. The residue is mixed with methylene chloride and water. After vigorous mixing up, the phases are separated. The methylene chloride phase is washed several times with water, then dried with anhydrous sodium sulphate and evaporated. The residue is dissolved in a little methylene chloride and hydrogen chloride-containing diethyl ether, whereupon the dihydrochloride precipitates out. This is filtered off with suction, washed with diethyl ether, digested with hot ethanol and finally dried to give 39.5 g. of the dihydrochloride of the desired compound; m.p. 283°-285° C.

reactant | benzoate dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)(=O)O
reactant | 4-chlorocinnamyl chloride | 105 mmole | ClC1=CC=C(C=CCCl)C=C1 | C9H8Cl2
reactant | triethylamine | 0.4 mole | C(C)N(CC)CC | C6H15N
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl 4-{2-[1-(4-chlorocinnamyl)-piperazin-4-yl]-ethyl}-benzoate | ClC1=CC=C(C=CCN2CCN(CC2)CCC2=CC=C(C(=O)OCC)C=C2)C=C1 | C24H29ClN2O2
